datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1cc(OC)nc([N-]S(=O)(=O)c2ccc([O-:10])cc2)n1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1cc(OC)nc([N-]S(=O)(=O)c2ccc([O:10][H:20])cc2)n1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.C[Si](C)(C)C[NH:10]C1CCCCC1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.C[Si](C)(C)C[NH+:10](C1CCCCC1)[H:20] 10=20;20,21=21",
"Cc1ccc2c(c1)CC[NH:10]2.NC(=O)C(Cc1ccccc1)[NH:21][H:20]>>Cc1ccc2c(c1)CC[NH+:10]2[H:20].NC(=O)C(Cc1ccccc1)[NH-:21] 10=20;20,21=21",
"O=C(c1ccccc1)N1C/C(=[O+:21]\[H:20])NC1=S.O=[N+]([O-])c1cc([O-:10])ccc1[O-]>>O=C(c1ccccc1)N1CC(=[O:21])NC1=S.O=[N+]([O-])c1cc([O:10][H:20])ccc1[O-] 10=20;20,21=21",
"Cc1c[n+:21]([H:20])ccc1N.Clc1ccc([NH2:10])c2ccccc12>>Cc1c[n:21]ccc1N.Clc1ccc([NH2+:10][H:20])c2ccccc12 10=20;20,21=21",
"CC(C)[NH+](CCC(c1ccccc1)c1cccc[n:10]1)C(C)C.CC1(C)NC(C)(C)[N+]([O:21][H:20])=C1c1ccccc1>>CC(C)[NH+](CCC(c1ccccc1)c1cccc[n+:10]1[H:20])C(C)C.CC1(C)NC(C)(C)[N+]([O-:21])=C1c1ccccc1 10=20;20,21=21",
"CCC[NH:10]CC(=O)O.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCC[NH+:10](CC(=O)O)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCOC(=O)c1c[n+:21]([H:20])c2ccccc2c1OCC.CC[N:10]1CCOCC1>>CCOC(=O)c1c[n:21]c2ccccc2c1OCC.CC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCc1ccc([O-:10])cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"Cc1ccccc1[O-:10].O=C1C=CC(Br)=C([O:21][H:20])C=C1>>Cc1ccccc1[O:10][H:20].O=C1C=CC(Br)=C([O-:21])C=C1 10=20;20,21=21",
"CC(CCCc1ccc(O)cc1)[NH2:10].c1cncc(-c2ccc[n+:21]([H:20])c2)c1>>CC(CCCc1ccc(O)cc1)[NH2+:10][H:20].c1cncc(-c2ccc[n:21]c2)c1 10=20;20,21=21",
"CC#CC(C)Oc1cc(N)c(Cl)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(C)[H:20].CCCCCC[N:10](CCO)CC(O)CC>>CC#CC(C)Oc1cc(N)c(Cl)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2C.CCCCCC[N+:10](CCO)(CC(O)CC)[H:20] 10=20;20,21=21",
"CCC(=O)C(CC(C)[N:10](C)C)(c1ccccc1)c1ccccc1.CCCCCCCCCCCCCCCCCC(=O)[O:21][H:20]>>CCC(=O)C(CC(C)[N+:10](C)(C)[H:20])(c1ccccc1)c1ccccc1.CCCCCCCCCCCCCCCCCC(=O)[O-:21] 10=20;20,21=21",
"CCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:10].[NH3+]c1ccc(O)c([NH2+:21][H:20])c1>>CCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:10][H:20].[NH3+]c1ccc(O)c([NH2:21])c1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(CC[NH2:10])NCCc1c[nH]cn1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(CC[NH2+:10][H:20])NCCc1c[nH]cn1 10=20;20,21=21",
"O=C(c1ccccc1)c1ccc([N+](=O)[O-])cc1C(=O)[O-:10].[NH3+]C(CCc1ccc([N+](=O)[O-])cc1)C(=O)[O:21][H:20]>>O=C(c1ccccc1)c1ccc([N+](=O)[O-])cc1C(=O)[O:10][H:20].[NH3+]C(CCc1ccc([N+](=O)[O-])cc1)C(=O)[O-:21] 10=20;20,21=21",
"CC[NH:10]CC.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC[NH+:10](CC)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CNNC1CC[N:10](C)CC1.N#Cc1cc[n+:21]([H:20])cc1>>CNNC1CC[N+:10](C)([H:20])CC1.N#Cc1cc[n:21]cc1 10=20;20,21=21",
"CC(=O)N(N)C1CC[N+:21](C)([H:20])CC1.NC(=O)[C@@H](N)CSSC[C@@H](C(N)=O)[NH-:10]>>CC(=O)N(N)C1CC[N:21](C)CC1.NC(=O)[C@@H](N)CSSC[C@@H](C(N)=O)[NH:10][H:20] 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH:10]C.O=S(=O)(c1ccccc1)[O:21][H:20]>>CC(C)C(C(=O)[O-])[NH+:10](C)[H:20].O=S(=O)(c1ccccc1)[O-:21] 10=20;20,21=21",
"CCS(=O)(=O)c1cc(OC)c(OC)c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:21]3(Cc2ccccc2)[H:20])c1.CN(C)C(=O)c1ncnc2nc[n-:10]c12>>CCS(=O)(=O)c1cc(OC)c(OC)c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:21]3Cc2ccccc2)c1.CN(C)C(=O)c1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"Nc1ccc2c(N)c3ccccc3[n:10]c2c1.O=C([O-])[C@@H](O)[C@@H](C(=O)[O-])[NH2+:21][H:20]>>Nc1ccc2c(N)c3ccccc3[n+:10]([H:20])c2c1.O=C([O-])[C@@H](O)[C@@H](C(=O)[O-])[NH2:21] 10=20;20,21=21",
"COc1ccc([O-:10])cc1.Cc1[nH]cnc1CSCCNC(=[NH2+])NCCCc1c[nH]c[n+:21]1[H:20]>>COc1ccc([O:10][H:20])cc1.Cc1[nH]cnc1CSCCNC(=[NH2+])NCCCc1c[nH]c[n:21]1 10=20;20,21=21",
"Cc1cc(OS(=O)(=O)[O-])c2oc(C3=Cc4ccc([O-:10])cc4OC3=O)nc2c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(OS(=O)(=O)[O-])c2oc(C3=Cc4ccc([O:10][H:20])cc4OC3=O)nc2c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC[NH:10]C1c2ccccc2C=Cc2ccccc21.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC[NH+:10](C1c2ccccc2C=Cc2ccccc21)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])C=C1>>CC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"CN1C(=O)C(=Cc2ccccc2)[N:21]([H:20])C1=O.COc1cc(C(N)=O)ccc1-c1nc2c(cn(C)[n:10]2)[nH]1>>CN1C(=O)C(=Cc2ccccc2)[N-:21]C1=O.COc1cc(C(N)=O)ccc1-c1nc2c(cn(C)[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"O=C(O[C@@H]1C[C@H]2CC[C@@H](C1)[NH:10]2)C(CO)c1ccccc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>O=C(O[C@@H]1C[C@H]2CC[C@@H](C1)[NH+:10]2[H:20])C(CO)c1ccccc1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(=O)/C(=N/[O:21][H:20])c1ccccc1.CC1=C2C(=[N:10]c3ccccc32)N(C)C(Cl)=C1>>CC(=O)/C(=N/[O-:21])c1ccccc1.CC1=C2C(=[N+:10]([H:20])c3ccccc32)N(C)C(Cl)=C1 10=20;20,21=21",
